US04814489
4-Chloroanisole (1430 mg, 10 mmoles, 1229 ml), NiBr2 (438 mg, 2 mmoles), NaI (1650 mg, 11 mmoles) and P(o-tol)3 (1216 mg, 4 mmoles) were combined according to Method B and treated with ethyl acrylate (1100 mg, 11 mmoles, 1.130 ml), Et3N (1111 mg, 11 mmoles, 1.530 ml), and Pd(dba)2 (29 mg, 0.05 mmoles). Isolation by radial chromatography as described in Example 2 (Si gel, 5:1 volume mixture of hexane and Et2O for the first fraction, 1:1 volume mixture of hexane and Et2O for the second) gave 1519 mg (74 mole % yield) of 4-methoxy ethyl cinnamate as a brown oil. The results of NMR (CDCl3) analysis were: δ1.35 (t, 3H,--COOCH2CH3), 3.84 (s, 3H, OCH3), 4.26 (q, 2H, COOCH2CH3), 6.33 (d, 1H, PhCH=CH--), 6.90 (d, 2H, aromatic), 7.49 (d, 2H, aromatic), 7.65 (d, 1H, PhCH=CH--R), indicating the desired product.

reactant | 4-Chloroanisole | 10 mmoles, 1229 ml, 1430 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | NaI | 11 mmoles, 1650 mg | [Na+].[I-]
reactant | P(o-tol)3 | 4 mmoles, 1216 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | ethyl acrylate | 11 mmoles, 1.130 ml, 1100 mg | C(C=C)(=O)OCC | C5H8O2
reactant | Et3N | 11 mmoles, 1.530 ml, 1111 mg | CCN(CC)CC | C6H15N
catalyst | Pd(dba)2 | 0.05 mmoles, 29 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | Et2O | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 4-methoxy ethyl cinnamate | 1519 mg | CCOC(=O)/C=C/C=1C=CC(=CC1)OC | C12H14O3
